US06794397B2
6-Chloro-N-(4-methyl-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4-methyl-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.29 (s, 1H), 9.02 (d, J=2.7, 1H), 8.81 (d, J=8.7, 1H), 8.24-8.21 (m, 1H), 8.11 (s, 1H), 7.58-7.50 (m, 2H), 2.44 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-methyl-2-nitroaniline | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
product | 6-Chloro-N-(4-methyl-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H10ClN3O3
